US07592358B2
IP 8a. 1-((S)-1-benzylpyrrolidin-2-yl)cyclopropanol
First 6.91 mL (23.57 mmol) of titanium (IV) isopropoxide and then 14.3 mL (42.9 mmol, 3 M in diethyl ether) of ethylmagnesium bromide were slowly added dropwise to a solution of 5.0 g (21.43 mmol) of N-benzyl-L-proline ethyl ester in 80 mL of dry diethyl ether which had been cooled to −15° C. and the reaction mixture was stirred for 30 minutes at this temperature. Subsequently at approximately 10° C., 5.4 mL (42.9 mmol) of boron trifluoride-diethyl ether complex were added and the mixture was stirred for a further 75 hours at RT. While cooling, 50 mL of 1M NaOH was added, the mixture was stirred for 1 hours at RT, combined with 100 mL of diethyl ether, and the organic phase was separated off and dried over sodium sulfate. After the desiccant and solvent had been eliminated, the residue was purified by chromatography (silica gel, EtOAc). Yield: 0.745 g (16% of theoretical); C14H19NO (M=217.307); calc.: molpeak (M+H)+: 218; found: molpeak (M+H)+: 218; Rf value: 0.17 (silica gel, EtOAc).

reactant | ethylmagnesium bromide | 42.9 mmol, 3 M, 14.3 mL | C(C)[Mg]Br
reactant | N-benzyl-L-proline ethyl ester | 21.43 mmol, 5.0 g | C(C)OC([C@H]1N(CCC1)CC1=CC=CC=C1)=O | C14H19NO2
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
catalyst | titanium (IV) isopropoxide | 23.57 mmol, 6.91 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-((S)-1-benzylpyrrolidin-2-yl)cyclopropanol | C(C1=CC=CC=C1)N1[C@@H](CCC1)C1(CC1)O | C14H19NO
